### PR TITLE
[Merged by Bors] - feat(CategoryTheory/Groupoid): `IsGroupoid` typeclass

### PR DESCRIPTION
**Pull request by robin-carlier**
Add a `IsGroupoid` typeclass that asserts that a category is a groupoid, i.e that every morphism is an isomorphism. Add the `IsGroupoid` pendent of some of the instances in `CategoryTheory.Groupoid`. 

---

- [x] depends on: #23318 

[Link to the zulip discussion.](https://leanprover.zulipchat.com/#narrow/channel/287929-mathlib4/topic/.60IsGroupoid.60.20typeclass)

If this lands, I believe `Groupoid.ofIsIso` should be deprecated.

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/CategoryTheory/Groupoid.lean [hunk 1]
```diff
@@ -111,8 +111,22 @@ end
...
+
+noncomputable instance {C : Type u} [Groupoid.{v} C] : IsGroupoid C where
+
 variable {C : Type u} [Category.{v} C]
 
+/-- Promote (noncomputably) an `IsGroupoid` to a `Groupoid` structure. -/
+noncomputable def Groupoid.ofIsGroupoid [IsGroupoid C] :
+    Groupoid.{v} C where
+  inv := fun f => CategoryTheory.inv f
+  inv_comp := fun f => Classical.choose_spec (by infer_instance: IsIso f).out|>.right
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Groupoid.lean:128]: The proof is found automatically:
```suggestion
  inv f := CategoryTheory.inv f
```

File: Mathlib/CategoryTheory/Groupoid.lean [hunk 2]
```diff
@@ -111,8 +111,22 @@ end
 
 section
 
+/-- A Prop-valued typeclass asserting that a given category is a groupoid. -/
+class IsGroupoid (C : Type u) [Category.{v} C] : Prop where
+  all_is_iso {X Y : C} (f : X ⟶ Y) : IsIso f := by infer_instance
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Groupoid.lean:116]:
```suggestion
  all_isIso {X Y : C} (f : X ⟶ Y) : IsIso f := by infer_instance
```

File: Mathlib/CategoryTheory/Groupoid.lean [hunk 3]
```diff
@@ -132,6 +146,14 @@ instance InducedCategory.groupoid {C : Type u} (D : Type u₂) [Groupoid.{v} D]
     inv_comp := fun f => Groupoid.inv_comp f
     comp_inv := fun f => Groupoid.comp_inv f }
 
+instance InducedCategory.isGroupoid {C : Type u} (D : Type u₂)
+    [Category.{v} D] [IsGroupoid D] (F : C → D) :
+    IsGroupoid (InducedCategory D F) where
+  all_is_iso {x y} f := by
+    let g : (F x ⟶ F y) := (fullyFaithfulInducedFunctor F).preimage f
+    obtain ⟨i, h, k⟩ : IsIso g := by infer_instance
+    exact ⟨i, h, k⟩
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Groupoid.lean:155]: This is a particular case of a lemma
```lean
lemma isGroupoid_of_reflects_iso {C D : Type*} [Category C] [Category D]
    (F : C ⥤ D) [F.ReflectsIsomorphisms] [IsGroupoid D] :
    IsGroupoid C where
  all_is_iso _ := isIso_of_reflects_iso _ F
```

Comment (robin-carlier) [reply Mathlib/CategoryTheory/Groupoid.lean]: We need to import `import Mathlib.CategoryTheory.Functor.ReflectsIso` for this, but this runs into an import cycle it seems.

Comment (robin-carlier) [reply Mathlib/CategoryTheory/Groupoid.lean]: (I guess we could split `CategoryTheory.Functor.ReflectsIso` into two files, one that only contains the def, and one that imports `CategoryTheory.Balanced` and `CategoryTheory.Functor.EpiMono`, but that might be work for an other PR).

Comment (joelriou) [reply Mathlib/CategoryTheory/Groupoid.lean]: Yes, the best would be to proceed first with the splitting of `ReflectsIso`, and then add `IsGroupoid`.

File: Mathlib/CategoryTheory/Groupoid.lean [hunk 4]
```diff
@@ -125,13 +139,23 @@ def Groupoid.ofHomUnique (all_unique : ∀ {X Y : C}, Unique (X ⟶ Y)) : Groupo
 
 end
 
+lemma isGroupoid_of_reflects_iso {C D : Type*} [Category C] [Category D]
+    (F : C ⥤ D) [F.ReflectsIsomorphisms] [IsGroupoid D] :
+    IsGroupoid C where
+  all_isIso _ := isIso_of_reflects_iso _ F
+
 instance InducedCategory.groupoid {C : Type u} (D : Type u₂) [Groupoid.{v} D] (F : C → D) :
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Groupoid.lean:147]: This one could probably be generalized to the case of a functor `F : C ⥤ D` that is equipped with a `FullyFaithful` structure, and then this instance would be obtained using `fullyFaithfulInducedFunctor`.

**Comment by joelriou** [comment]
Thanks!

bors merge
